US05173496
1-Ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline (7.5 g), was added in portions to a solution of 2-nitrobenzoic acid (5.01 g) in methylene chloride (300 ml) cooled to 0° C. The mixture (containing ethyl 2-nitrobenzoyl carbonate) was stirred for 15 minutes and then 1-naphthylmethylamine (4.7 g) was added dropwise at 0-5° C. The mixture was then stirred for 1 hour at ambient temperature and then washed successively with M hydrochloric acid, M sodium hydroxide and then with water. The organic phase was dried (MgSO4) and evaporated. The residue was purified by column chromatography, eluting with methylene chloride/ether (80/20 v/v) to give N-(1-naphthylmethyl)-2-nitrobenzamide as a white solid (7.9 g), of satisfactory purity.

reactant | 1-Ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 7.5 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
reactant | 2-nitrobenzoic acid | 5.01 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | ethyl 2-nitrobenzoyl carbonate | C(OCC)(OC(C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C10H9NO6
reactant | 1-naphthylmethylamine | 4.7 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-(1-naphthylmethyl)-2-nitrobenzamide | 7.9 g | C1(=CC=CC2=CC=CC=C12)CNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C18H14N2O3
